US08530480B2
To a mixture of 1-(4-nitrophenyl)-4-(trimethylsilyl)-1H-1,2,3-triazole (0.5 g, 1.9 mmol) and silica gel (2.9 g) in anhydrous CH3CN (10 mL) was added NCS (1.1 g, 6.7 mmol). The mixture was heated to 80° C. for 24 h. The reaction was cooled, filtered and concentrated in vacuo. The resulting crude residue was purified by chromatography on silica gel (EtOAc/hexanes) to give 4-chloro-1-(4-nitrophenyl)-1H-1,2,3-triazole. 1H NMR (CDCl3, 400 MHz) δ 8.39 (dd, 2H), 8.02 (s, 1H), 7.89 (dd, 2H).

reactant | 1-(4-nitrophenyl)-4-(trimethylsilyl)-1H-1,2,3-triazole | 1.9 mmol, 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1N=NC(=C1)[Si](C)(C)C | C11H14N4O2Si
reactant | NCS | 6.7 mmol, 1.1 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-chloro-1-(4-nitrophenyl)-1H-1,2,3-triazole | ClC=1N=NN(C1)C1=CC=C(C=C1)[N+](=O)[O-] | C8H5ClN4O2
